US04079181
To a solution of p-nitrobenzyl α-[3-phenoxymethyl-7-oxo-4-thia-2,6-diazabicyclo[3,2,0]hept-2-en-6-yl]-α-(1-hydroxyethylidene)acetate (940 mg) in dimethylformamide containing 10% tetrahydrofuran (5 ml) is added toluene-p-sulfonyl chloride (456 mg). After cooling to -70° C, the solution is mixed with triethylamine (0.3 ml). The reaction mixture is allowed to warm slowly up to room temperature, poured into water, and extracted with ethyl acetate. The extract solution is washed with water, dried, and evaporated. The obtained residue is chromatographed over silica gel containing 10% water using benzene containing 5% ethyl acetate to give p-nitrobenzyl α-[3-phenoxymethyl-7-oxo-4-thia-2,6-diazabicyclo[3,2,0]hept-2-en-6-yl]-α-(1-toluene-p-sulfonyloxyethylidene)acetate (644 mg).

reactant | p-nitrobenzyl α-[3-phenoxymethyl-7-oxo-4-thia-2,6-diazabicyclo[3,2,0]hept-2-en-6-yl]-α-(1-hydroxyethylidene)acetate | 940 mg | O(C1=CC=CC=C1)CC1=NC2C(N(C2S1)C(C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])=C(C)O)=O | C22H19N3O7S
reactant | toluene-p-sulfonyl chloride | 456 mg | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | triethylamine | 0.3 ml | C(C)N(CC)CC | C6H15N
reactant | water | O | H2O
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | p-nitrobenzyl α-[3-phenoxymethyl-7-oxo-4-thia-2,6-diazabicyclo[3,2,0]hept-2-en-6-yl]-α-(1-toluene-p-sulfonyloxyethylidene)acetate | 644 mg | O(C1=CC=CC=C1)CC1=NC2C(N(C2S1)C(C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])=C(C)OS(=O)(=O)C1=CC=C(C=C1)C)=O | C29H25N3O9S2
